US05646173
A solution of 20.0 g of 5-fluoro-1-indanone, 27.5 ml of 3-buten-2-ol and 200 mg of p-toluenesulfonic acid in 200 ml of 2,2-dimethoxy-propane was boiled under reflux for 63 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 4:1). 18.6 g (68%) of (RS)-2-(2-buten-1-yl)-5-fluoro-1-indanone were obtained as a yellow oil.

reactant | 5-fluoro-1-indanone | 20.0 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | 3-buten-2-ol | 27.5 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 200 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-5-fluoro-1-indanone | 18.6 g, 68% | C(C=CC)C1C(C2=CC=C(C=C2C1)F)=O | C13H13FO
